US09388161B2
A three-necked, 1-L round-bottomed flask equipped with an overhead stirrer, thermocouple, and nitrogen inlet was charged with a solution of crude (S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline (59.9 g, 338 mmol) in ethyl acetate (600 mL). To this solution was then added the freshly prepared HCl solution (ca. 2 M in ethanol, 86 mL, 372 mmol) at 17° C. As the HCl solution was being added, the mixture initially became cloudy but then became a clear solution upon complete addition. The internal temperature rose to 26° C. The clear solution was stirred at ambient temperature, and after 10-15 min, a granular precipitate formed. The slurry was stirred at ambient temperature for 4.5 h, then filtered on a glass, 600-mL Buchner funnel. The flask and solids were rinsed with fresh ethyl acetate, filtered, and dried on the filter under suction and a positive pressure of nitrogen to afford (S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline hydrochloride (64.43 g, 89%) as a cream-colored, free-flowing, granular solid. Chiral HPLC analysis showed the salt to have an enantiopurity of 98.9:1.1 e.r. (97.8% ee). (Chiral HPLC method: Column: ODH; Method: ODH 98% Hexane 2% IPA; UV:254, Flow: 0.5 mL/min). MS (ES, m/z): 178 [M+H]+

reactant | (S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline | 338 mmol, 59.9 g | COC1=C2CC[C@@H](NC2=CC=C1)C | C11H15NO
reactant | HCl | 372 mmol, ca. 2 M, 86 mL | Cl | ClH
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
product | (S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline hydrochloride | 64.43 g, 89% | Cl.COC1=C2CC[C@@H](NC2=CC=C1)C | InChI=1S/C11H15NO.ClH/c1-8-6-7-9-10(12-8)4-3-5-11(9)13-2;/h3-5,8,12H,6-7H2,1-2H3;1H/t8-;/m0./s1
